US04153711
4-[[2-[(n-butylmethylamino)methyl]-1H-indol-3-yl]methyl]-2,4-dihydro-5-methyl-2-phenyl-3H-pyrazol-3-one.
A solution of 2-n-Butyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole, 8.6 g., and methyl iodide, 2.6 ml. in dimethylformamide is stirred fifteen minutes, and then added all at once to a solution of the anion of the pyrazolone, prepared from 6.96 g. of 2-phenyl-5-methyl-3H-pyrazol-3-one and 2.0 g. fifty percent sodium hydride in dimethylformamide at 10°-20° C. The mixture is heated on a steam bath for one hour, then stirred at room temperature for sixteen hours. The reaction mixture is next poured into water, precipitating the product, 8.6 g., m.p. about 180°-200° with decomposition. Recrystallization from methanol gives 6.3 g., m.p. 195°-200° with decomposition.

reactant | 2-n-Butyl-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | C(CCC)N1CC=2NC=3C=CC=CC3C2C1 | C14H18N2
reactant | methyl iodide | CI | CH3I
reactant | pyrazolone | N1=NC(C=C1)=O | C3H2N2O
reactant | 2-phenyl-5-methyl-3H-pyrazol-3-one | C1(=CC=CC=C1)N1NC(=CC1=O)C | C10H10N2O
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[[2-[(n-butylmethylamino)methyl]-1H-indol-3-yl]methyl]-2,4-dihydro-5-methyl-2-phenyl-3H-pyrazol-3-one | C(CCC)N(C)CC=1NC2=CC=CC=C2C1CC1C(N(N=C1C)C1=CC=CC=C1)=O | C25H30N4O
